US06648923B1
Step 1: 2-(2-methoxymethyl-4-nitrophenoxy)acetamide
25 g of 2-methoxymethyl-4-nitrophenol, 14 g of chloroacetamide, 18.9 g of calcium carbonate, and 12.5 g of potassium iodide in a 150 ml of acetone are heated under reflux for four hours. Subsequently the reaction mixture is cooled to room temperature and poured into water. The resulting precipitate is filtered, washed with water and subsequently dried. 20 g of a pale yellow product is obtained having a melting point of from 157 to 158° C.

reactant | 2-methoxymethyl-4-nitrophenol | 25 g | COCC1=C(C=CC(=C1)[N+](=O)[O-])O | C8H9NO4
reactant | chloroacetamide | 14 g | ClCC(=O)N | C2H4ClNO
reactant | calcium carbonate | 18.9 g | C([O-])([O-])=O.[Ca+2]
reactant | potassium iodide | 12.5 g | [I-].[K+]
solvent | water | O | H2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 2-(2-methoxymethyl-4-nitrophenoxy)acetamide | 20 g | COCC1=C(OCC(=O)N)C=CC(=C1)[N+](=O)[O-] | C10H12N2O5
